**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Infrared QFN LED Waterclear
* Matchcode:              WL-SIQW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-03-01
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 2720_15427285BA240 1 2
D1 1 2 led
.MODEL led D
+ IS=1.4332E-15
+ N=1.7255
+ RS=.58984
+ IKF=51.253E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 2720_15427285BA242 1 2
D1 1 2 led
.MODEL led D
+ IS=1.6136E-15
+ N=3.4287
+ RS=.49775
+ IKF=42.063E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 2720_15427294BA240 1 2 
D1 1 2 led
.MODEL led D
+ IS=679.98E-12
+ N=1.6878
+ RS=.70317
+ IKF=122.07E-9
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 2720_15427294BA242 1 2 
D1 1 2 led
.MODEL led D
+ IS=129.92E-12
+ N=5
+ RS=.60289
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3535_15435385A9040 1 2 
D1 1 2 led
.MODEL led D
+ IS=101.01E-21
+ N=1.3002
+ RS=.28396
+ IKF=305.82
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3535_15435385A9042 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4081
+ RS=.20719
+ IKF=.13917
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3535_15435394A9040 1 2
D1 1 2 led
.MODEL led D
+ IS=11.715E-18
+ N=1.2735
+ RS=.22262
+ IKF=.12203
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3535_15435394A9042 1 2
D1 1 2 led
.MODEL led D
+ IS=26.178E-18
+ N=2.6448
+ RS=.28053
+ IKF=69.074E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3737_15437385AA540 1 2 
D1 1 2 led
.MODEL led D
+ IS=1.2507E-18
+ N=1.3296
+ RS=.18806
+ IKF=127.47
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3737_15437385AA542 1 2 
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3721
+ RS=.19937
+ IKF=.11339
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3737_15437394AA540 1 2
D1 1 2 led
.MODEL led D
+ IS=12.754E-18
+ N=1.2812
+ RS=.29137
+ IKF=88.442E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********
.subckt 3737_15437394AA542 1 2
D1 1 2 led
.MODEL led D
+ IS=1.5480E-12
+ N=3.9753
+ RS=.39471
+ IKF=220.40
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
***********








